US06727264B1
ETHYL 5-(4-CHLOROPHENYL)-2-({4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}METHYL)-3-FUROATE:
Prepared by Procedure F and Scheme R using ethyl 5-(4-chlorophenyl)-2-formyl-3-furoate and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 509.0 (M+H)+.

reactant | ethyl 5-(4-chlorophenyl)-2-formyl-3-furoate | ClC1=CC=C(C=C1)C1=CC(=C(O1)C=O)C(=O)OCC | C14H11ClO4
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | ETHYL 5-(4-CHLOROPHENYL)-2-({4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}METHYL)-3-FUROATE | ClC1=CC=C(C=C1)C1=CC(=C(O1)CN1CCC(CC1)C1=CC(=CC=C1)NC(C(C)C)=O)C(=O)OCC | C29H33ClN2O4
